US07592453B2
4-(4-Methyl-1H-imidazol-1-yl)benzoic acid
To a solution (5 ml) of methyl 4-(4-methyl-1H-imidazol-1-yl)benzoate (137 mg, 0.635 mmol) in methanol was added 1M sodium hydroxide (5 ml), and the mixture was stirred at room temperature for 3 hrs. 1M Hydrochloric acid (5 ml) was added to the reaction mixture, and the solvent was evaporated under reduced pressure. The residue was used for the next reaction without purification.

reactant | methyl 4-(4-methyl-1H-imidazol-1-yl)benzoate | 0.635 mmol, 5 ml, 137 mg | CC=1N=CN(C1)C1=CC=C(C(=O)OC)C=C1 | C12H12N2O2
reactant | sodium hydroxide | 1M, 5 ml | [OH-].[Na+]
reactant | Hydrochloric acid | 1M, 5 ml | Cl | ClH
solvent | methanol | CO | CH4O
product | 4-(4-Methyl-1H-imidazol-1-yl)benzoic acid | CC=1N=CN(C1)C1=CC=C(C(=O)O)C=C1 | C11H10N2O2
